US04130646
cis-1,2,3,4-Tetrahydro-2-[ [4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1-naphthalenol, hydrochloride (1:2)
A solution of 4.1 g of cis-1,2,3,4-tetrahydro-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1-naphthalenol in 150 ml of absolute ethanol is treated with 4.9 ml of a solution of 4.8 N hydrochloric acid in ether. The mixture is warmed on a steam bath for 15 minutes, cooled and filtered. Recrystallization from ethanol/ether yields 3.5 g of the title compound, melting point 199°-200° C.

reactant | cis-1,2,3,4-tetrahydro-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1-naphthalenol | 4.1 g | COC1=C(C=CC=C1)N1CCN(CC1)C[C@@H]1[C@@H](C2=CC=CC=C2CC1)O | C22H28N2O2
reactant | hydrochloric acid | 4.8 N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | cis-1,2,3,4-Tetrahydro-2-[ [4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1-naphthalenol, hydrochloride | 3.5 g | Cl.COC1=C(C=CC=C1)N1CCN(CC1)C[C@@H]1[C@@H](C2=CC=CC=C2CC1)O | InChI=1S/C22H28N2O2.ClH/c1-26-21-9-5-4-8-20(21)24-14-12-23(13-15-24)16-18-11-10-17-6-2-3-7-19(17)22(18)25;/h2-9,18,22,25H,10-16H2,1H3;1H/t18-,22+;/m1./s1
